US04399140
(b) 5-Chloro-1-(2-triphenylmethylaminothiazol-4-ylmethyl)pyrimidin-2-one
A stirred suspension of 5-chloropyrimidin-2-one (688 mg), 4-chloromethyl-2-triphenylmethylaminothiazole (3.000 g), anhydrous sodium carbonate (1.086 g) and benzyltrimethylammonium chloride (20 mg) in dry N,N-dimethylformamide (25 ml) was heated at 90° C. After 1.5 h the reaction mixture was evaporated to dryness. The residue was suspended in ethyl acetate (250 ml) and washed with water (2×60 ml) and brine (60 ml), then dried and evaporated to a dark brown foam. The foam was subjected to column chromatography on silica developing and eluting with chloroform-ethanol, 24:1. This gave a brown foam which was triturated with diethyl ether to give a brown solid (2.03 g). A portion of the solid (360 mg) was recrystallised from ethyl acetate to give buff crystals of the title pyrimidinone (129 mg), m.p. 215°-216° C., λmax (EtOH) 268 nm (ε 8,630), 335 nm (ε 3,440).

reactant | 5-chloropyrimidin-2-one | 688 mg | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | 4-chloromethyl-2-triphenylmethylaminothiazole | 3.000 g | ClCC=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2S
reactant | sodium carbonate | 1.086 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | benzyltrimethylammonium chloride | 20 mg | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-1-(2-triphenylmethylaminothiazol-4-ylmethyl)pyrimidin-2-one | 2.03 g | ClC=1C=NC(N(C1)CC=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H21ClN4OS
